US09278983B2
To a mixture of 4-(1,2,2,2-tetrafluoro-1-trifluoromethyl-ethyl)-benzene-1,2-diamine (552 mg), 2-ethylsulfanylbenzoic acid (401 mg), and pyridine (27 mL), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (422 mg) and 1-hydroxybenzotriazole (27 mg) were added at room temperature. The reaction mixture was stirred at room temperature for 5 hours, diluted with water, and extracted with ethyl acetate. The combined organic layer was dried over sodium sulfate, and concentrated under reduced pressure. The resulting residue was dissolved in a mixed solution of DMF (7.5 mL) and toluene (30 mL), and then p-toluenesulfonic acid (837 mg) was added at room temperature. The mixture was stirred with heating at 130° C. for 8 hours, and allowed to stand to cool to room temperature. Into the reaction mixture, saturated aqueous sodium hydrogen carbonate solution was poured, and extracted with ethyl acetate. The combined organic layer was dried over sodium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 97 mg of 2-(2-ethylsulfanyl-phenyl)-5-(1,2,2,2-tetrafluoro-1-trifluoromethyl-ethyl)-1H-benzimidazole (hereinafter, Present Compound 346).

reactant | 4-(1,2,2,2-tetrafluoro-1-trifluoromethyl-ethyl)-benzene-1,2-diamine | 552 mg | FC(C(F)(F)F)(C(F)(F)F)C=1C=C(C(=CC1)N)N | C9H7F7N2
reactant | 2-ethylsulfanylbenzoic acid | 401 mg | C(C)SC1=C(C(=O)O)C=CC=C1 | C9H10O2S
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 422 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 27 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | water | O | H2O
solvent | pyridine | 27 mL | N1=CC=CC=C1 | C5H5N
product | 2-(2-ethylsulfanyl-phenyl)-5-(1,2,2,2-tetrafluoro-1-trifluoromethyl-ethyl)-1H-benzimidazole | 97 mg | C(C)SC1=C(C=CC=C1)C1=NC2=C(N1)C=CC(=C2)C(C(F)(F)F)(C(F)(F)F)F | C18H13F7N2S
